US04327100
2-[2-(2-Phenylsulfinyl-ethoxy)-4-methoxyphenyl]-imidazo[4,5-b]pyridine
A solution of 2.8 gm (0.0074 mol) of 2-[2-(2-phenylthioethoxy)-4-methoxyphenyl]imidazo[4,5-b]pyridine in 40 ml of glacial acetic acid was admixed with 0.84 gm of hydrogen peroxide (30%), and the mixture was stirred for 2 hours at room temperature. Subsequently, the reaction mixture was diluted with 20 ml of water, neutralized with potassium carbonate, extracted three times with 50 ml each of methylene chloride, and dried over magnesium sulfate. The purification was carried out on 70 gm of silicagel with methylene chloride/acetone (100:0 to 80:20).

reactant | 2-[2-(2-phenylthioethoxy)-4-methoxyphenyl]imidazo[4,5-b]pyridine | 0.0074 mol, 2.8 gm | C1(=CC=CC=C1)SCCOC1=C(C=CC(=C1)OC)C=1NC=2C(=NC=CC2)N1 | C21H19N3O2S
reactant | hydrogen peroxide | 0.84 gm | OO | H2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | water | 20 ml | O | H2O
product | 2-[2-(2-Phenylsulfinyl-ethoxy)-4-methoxyphenyl]-imidazo[4,5-b]pyridine | C1(=CC=CC=C1)S(=O)CCOC1=C(C=CC(=C1)OC)C=1NC=2C(=NC=CC2)N1 | C21H19N3O3S
